US07378420B2
A. Synthesis of 1-methyl-4-phenylpiperidine-4-carbonitrile
To a solution of mechlorethamine (4 g, 25.6 mmol) and benzyl cyanide (4 g, 34.2 mmol) in toluene (25 ml) was added sodium amide (2 g, 51.2 mmol) at 40-50° C. in portions for 1 hour. The reaction mixture was heated to reflux about 2 hours after the addition. The reaction mixture was cooled to room temperature and washed with saturated sodium bicarbonate solution and brine, dried over sodium sulfate and concentrated. The residue was applied to flash column chromatography using methylene chloride and methanol (100:5) as eluents to give 3 g of desired product.

reactant | mechlorethamine | 25.6 mmol, 4 g | CN(CCCl)CCCl | C5H11Cl2N
reactant | benzyl cyanide | 34.2 mmol, 4 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | sodium amide | 51.2 mmol, 2 g | [NH2-].[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-phenylpiperidine-4-carbonitrile | 3 g | CN1CCC(CC1)(C#N)C1=CC=CC=C1 | C13H16N2
